US08067445B2
Step 1: {6-Methoxy-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 4, Step 1, using the following starting materials: (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester and 2,2,2-trifluoroethylamine hydrochloride.

reactant | (2′-formyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C19H17F3O4
reactant | 2,2,2-trifluoroethylamine hydrochloride | Cl.FC(CN)(F)F
product | {6-Methoxy-2′-[(2,2,2-trifluoro-ethylamino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC(F)(F)F)=O | C21H21F6NO3
